US06504025B2
Preparation of (6R,7R)-7-[(Z)-2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-hydroxyimino-acetylamino]-3-[(E)-(R)-1′-(5-methyl-2-oxo-[1,3]dioxol-4-ylmethoxycarbonyl)-2-oxo-[1,3′]bipyrrolidinyl-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid
A mixture of 40 mg 7-[2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-[1′-(5-methyl-2-oxo-[1,3]dioxol-4-ylmethoxycarbonyl)-2-oxo-[1,3′]bipyrrolidinyl-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester and 20 mg triethylsilane is dissolved in 0.30 ml trifluoroacetic acid. The resulting solution is stirred at 0° C. for 15 min. The solvent is evaporated under aspirator vacuum and the residue is triturated with diethyl ether. The solid is collected by filtration and washed with diethyl ether to yield 23 mg of the title compound as beige powder. MS: M−H=689.3. 1H-NMR (d6-DMSO): 13.8 (s, 1H, COOH); 11.9 (s, 1H, OH); 9.45 (d, J=8.4, 1H, NH); 8.05 (s, 2H, NH2); 7.31(s, 1H, HC═C); 5.86 (dd, J=8.4; 4.8, 1H CH); 5.17 (d, J=8.4, 1H CH); 4.61 (m, 1H CH); 3.85 (m, 2H CH2); 3.55-3.35 (m, 6H 3×CH2); 3.1 (m, 1H); 2.9 (m, 1H); 2.15 (s, 3H, CH3); 2.05 (m, 2H CH2).

reactant | 7-[2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-[1′-(5-methyl-2-oxo-[1,3]dioxol-4-ylmethoxycarbonyl)-2-oxo-[1,3′]bipyrrolidinyl-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester | 40 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=C1C(N(CC1)C1CN(CC1)C(=O)OCC=1OC(OC1C)=O)=O)NC(C(=NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=NSC(=N1)N)=O)=O | C58H50N8O11S2
reactant | triethylsilane | 20 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 0.30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (6R,7R)-7-[(Z)-2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-hydroxyimino-acetylamino]-3-[(E)-(R)-1′-(5-methyl-2-oxo-[1,3]dioxol-4-ylmethoxycarbonyl)-2-oxo-[1,3′]bipyrrolidinyl-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid | 23 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)[C@H]1CN(CC1)C(=O)OCC=1OC(OC1C)=O)=O)=N/O | C26H26N8O11S2
